US07786292B2
5-Hydroxy-2′-deoxycytidine 5′-triphosphate was synthesized using a procedure similar to that described for the synthesis of 5-hydroxycytidine 5′-diphosphate. Twenty five mg (45 μmole) of dCTP (as the sodium salt) was dissolved in 200 μl of water and then cooled to 4° C. Bromine was slowly added with vigorous mixing to the dCTP solution until the yellow color persisted. To remove excess bromine, 7 μl of cyclohexene was added with shaking, followed by 0.1 ml of 2,4,6-collidine. The emulsion was incubated for about 2 hours at 37° C. and then extracted with ether (4×0.5 ml). The aqueous layer was evaporated under vacuum, redissolved in water, and loaded on a DEAE-Sephadex A-25 column (about 80 ml, HCO3− form). The fraction containing triphosphates was eluted from the column with a linear gradient of triethylammonium bicarbonate (TEAB), pH 7.5-8 (5 mM to 0.8 M). Fractions containing a mixture of nucleoside triphosphates were pooled and evaporated several times with 50% ethanol to remove TEAB. 5-OHdCTP was further purified twice on a Mono Q column using first a linear gradient of NaCl from 5 mM to 0.7 M in 20 mM Tris-HCl buffer, pH 7.5, and finally a linear gradient from 5 mM to 0.7 M sodium phosphate buffer, pH 3.5. The peak of 5-OHdCTP was collected, diluted with water, and reloaded on a DEAE sephadex A-25 column (2.5 ml, HCO3− form). The column washed with 0.1 M ammonium bicarbonate to remove salt followed by the elution of 5-OHdCTP with 0.6 M ammonium bicarbonate. The ammonium bicarbonate was removed by repeated evaporation with 50% ethanol. The yield of 5-OHdCTP was about 25-30%. The molar absorptivity [ε=7700 (X,=292 nm)] (15) was used to calculate the amount of 5-OHdCTP.

reactant | 5-hydroxycytidine 5′-diphosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(N)C(=C1)O)O)O | C9H15N3O12P2
reactant | dCTP | 45 μmole, Twenty five mg | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C=C1)O | C9H16N3O13P3
reactant | sodium | [Na] | Na
reactant | Bromine | BrBr | Br2
solvent | water | 200 μl | O | H2O
product | 5-Hydroxy-2′-deoxycytidine 5′-triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C(=C1)O)O | C9H16N3O14P3
